US07470699B2
Step 2: Preparation of 4-[5-Cyclopropyl-6-(2-fluoro-4-methanesulfonyl-phenoxy)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound C44)
4-(6-Chloro-5-cyclopropyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (200 mg, 0.588 mmol), 2-fluoro-4-methanesulfonyl-phenol (168 mg, 0.883 mmol) and sodium hydride (60% dispersion in mineral oil, 53 mg, 1.325 mmol) were dissolved in DMSO (2 mL) and the mixture stirred under Nitrogen for 10 min at rt. The mixture was then heated under microwave irradiation for 1 h at 150° C. The crude was quenched with water and extracted with EtOAc (3×). The organic layer was concentrated and the residue was purified by HPLC to afford Compound C44 (51 mg, 14.3%) as oil. 1H NMR (CDCl3, 400 MHz) δ 0.90-0.97 (m, 2H), 1.01-1.06 (m, 2H), 1.23-1.27 (d, J=6.06 Hz, 6H), 1.76-1.91 (m, 2H), 1.92-2.02 (m, 2H), 3.08 (s, 3H), 3.46-3.55 (m, 2H), 3.63-3.72 (m, 2H), 4.87-4.98 (m, 1H), 5.32-5.39 (m, 1H), 7.36-7.42 (m, 1H), 7.73-7.80 (m, 2H), 8.17 (s, 1H). Exact mass calculated for C23H28FN3O6S 493.17, found 494.5 (MH+).

reactant | 4-(6-Chloro-5-cyclopropyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 0.588 mmol, 200 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C1CC1)Cl | C16H22ClN3O3
reactant | 2-fluoro-4-methanesulfonyl-phenol | 0.883 mmol, 168 mg | FC1=C(C=CC(=C1)S(=O)(=O)C)O | C7H7FO3S
reactant | sodium hydride | 1.325 mmol, 53 mg | [H-].[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-[5-Cyclopropyl-6-(2-fluoro-4-methanesulfonyl-phenoxy)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C1CC1)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C23H28FN3O6S
